US05062884
2-Chloro-5-nitro-α-methylcinnamaldehyde (Y=CH3, Z=CHO)
4 g of NaOH dissolved in 20 ml of water were added to a suspension of 185.5 g (1 mole) of 2-chloro-5-nitrobenzaldehyde in 500 ml of methanol, after which 70 g (1.2 moles) of propionaldehyde were added dropwise while cooling to 10°-15° C. The mixture was stirred for 2 days at room temperature and then neutralized with glacial acetic acid, and the precipitated solid was isolated by filtration under suction, washed with water and dried at 50° C. under reduced pressure to give the product of melting point 99°-102° C. in 78% yield.

reactant | NaOH | 4 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzaldehyde | 1 mole, 185.5 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | propionaldehyde | 1.2 moles, 70 g | C(CC)=O | C3H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 2-Chloro-5-nitro-α-methylcinnamaldehyde | 78% yield | ClC1=C(C=C(C=O)C)C=C(C=C1)[N+](=O)[O-] | C10H8ClNO3
